US04098746
The aqueous copolymer dispersion was prepared in an analogous manner to example 11, but by carrying out the polymerization with a modified monomer mixture at an ethylene pressure of 5 atmospheres. A mixture of 764 g of vinyl acetate and 76 g of monochloroacetic acid vinyl ester was added to the polymerization mixture at room temperature and after the polymerization had started a mixture of 6880 g of vinyl acetate and 688 g of monochloroacetic acid vinyl ester was introduced by pumping over a period of 6 hours. The dispersion obtained of a copolymer of vinyl acetate/monochloroacetic acid vinyl ester/ethylene had a solids content of 51% by weight and a latex viscosity of 23 poises.

reactant | ethylene | C=C | C2H4
reactant | vinyl acetate | 764 g | C(C)(=O)OC=C | C4H6O2
reactant | monochloroacetic acid vinyl ester | 76 g | C(=C)OC(CCl)=O | C4H5ClO2
reactant | vinyl acetate | 6880 g | C(C)(=O)OC=C | C4H6O2
reactant | monochloroacetic acid vinyl ester | 688 g | C(=C)OC(CCl)=O | C4H5ClO2
product | vinyl acetate monochloroacetic acid vinyl ester ethylene | C(C)(=O)OC=C.C(=C)OC(CCl)=O.C=C | InChI=1S/C4H5ClO2.C4H6O2.C2H4/c1-2-7-4(6)3-5;1-3-6-4(2)5;1-2/h2H,1,3H2;3H,1H2,2H3;1-2H2
